US20010020114A1
Step h: 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic acid pyrrolidineamide
Add AlCl3 (8.31 g, 62.3 mmol) to carbon tetrachloride (65 mL) under a nitrogen atmosphere at room temperature. Add 4-chlorobutyryl chloride (03.5 mL, 31.2 mmol), stir for 15 minutes and add, by dropwise addition over 15 minutes, a solution of 2-methyl-2-phenyl-propionic acid, pyrrolidineamide (5.64 g,. 26.0 mmol) in carbon tetrachloride (60 mL). Stir at room temperature for 17 hours, pour into ice water (100 mL) and separate the layers. Wash the aqueous layer with methylene chloride (2×70 mL), 5% aqueous sodium hydrogen carbonate, combine the organic layers and dry (Na2SO4). Filter, evaporate the filtrate in vacuo and purify by silica gel chromatography (5:2 hexane/ethyl acetate) to give the title compound (6.55 g, 78%) as a light yellow oil.

reactant | AlCl3 | 62.3 mmol, 8.31 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-chlorobutyryl chloride | 31.2 mmol | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 2-methyl-2-phenyl-propionic acid | CC(C(=O)O)(C)C1=CC=CC=C1 | C10H12O2
reactant | pyrrolidineamide | 26.0 mmol, 5.64 g | N1(CCCC1)C(=O)N | C5H10N2O
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 65 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic acid pyrrolidineamide | 6.55 g, 78% | N1(CCCC1)C(=O)N.ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | InChI=1S/C14H17ClO3.C5H10N2O/c1-14(2,13(17)18)11-7-5-10(6-8-11)12(16)4-3-9-15;6-5(8)7-3-1-2-4-7/h5-8H,3-4,9H2,1-2H3,(H,17,18);1-4H2,(H2,6,8)
